US07148239B2
N-[2-hydroxy-3-(1-piperidinyl)propoxy]-N′-butyl-3-pyridinecarboximidamide monohydrochloride
A mixture of 3.7 g (9.68 mmol) of N-[2-[(2-tetrahydropyranyl)oxy]-3-(1-piperidinyl)propoxy]-3-pyridinecarboximidoyl chloride and 40 ml (0.41 mol) n-butylamine was refluxed for 3 hours. The excess of amine was evaporated in vacuum affording dark-brown oil, which was dissolved in 40 ml of ethanol containing 3.0 g of 4-toluenesulphonic acid and the mixture was heated at 60° C. for one hour. The solvent was removed under reduced pressure, the residue was made alkaline (pH 10) with 2 N of sodium hydroxide solution then extracted three times with chloroform. The organic solution was dried over sodium sulfate, filtered and the solvent was evaporated in vacuum. The dark oily residue was purified by chromatography to give the pure base, which was dissolved in 20 ml of ethanol and acidified with equivalent amount of dry hydrochloric acid dissolved in isopropyl alcohol to give the title compound as a pale-yellow crystalline solid.

reactant | N-[2-[(2-tetrahydropyranyl)oxy]-3-(1-piperidinyl)propoxy]-3-pyridinecarboximidoyl chloride | 9.68 mmol, 3.7 g | O1C(CCCC1)OC(CON=C(C=1C=NC=CC1)Cl)CN1CCCCC1 | C19H28ClN3O3
reactant | n-butylamine | 0.41 mol, 40 ml | C(CCC)N | C4H11N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 40 ml, 3.0 g | C(C)O | C2H6O
solvent | 4-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | N-[2-hydroxy-3-(1-piperidinyl)propoxy]-N′-butyl-3-pyridinecarboximidamide monohydrochloride | Cl.OC(CONC(=NCCCC)C=1C=NC=CC1)CN1CCCCC1 | InChI=1S/C18H30N4O2.ClH/c1-2-3-10-20-18(16-8-7-9-19-13-16)21-24-15-17(23)14-22-11-5-4-6-12-22;/h7-9,13,17,23H,2-6,10-12,14-15H2,1H3,(H,20,21);1H
